US07417062B2
Step 1: 3-(Biphenyl-3-ylamino)-propionic acid methyl ester.
In a round bottom flask was added 3-aminobiphenyl 2.6 g (15.3 mmol), methyl acrylate 1.5 g (16.9 mmol) and cupric acetate 0.1 g, the reaction mixture was stirred 5 hour at 90° C., another 5 equivalent of methyl acrylate 7 g (75 mmol), and 0.25 g of cupric acetate was added, and the reaction mixture was heated for another 5 hours. The crude was purified using silica gel chromatography using 15% of ethyl acetate and petroleum ether. Yield to 1.6 g of oil.

reactant | 3-aminobiphenyl | 15.3 mmol, 2.6 g | NC=1C=C(C=CC1)C1=CC=CC=C1 | C12H11N
reactant | methyl acrylate | 16.9 mmol, 1.5 g | C(C=C)(=O)OC | C4H6O2
reactant | methyl acrylate | 75 mmol, 7 g, 5 equivalent | C(C=C)(=O)OC | C4H6O2
product | 3-(Biphenyl-3-ylamino)-propionic acid methyl ester | 1.6 g | COC(CCNC=1C=C(C=CC1)C1=CC=CC=C1)=O | C16H17NO2
